US04107286
(a) Preparation of 2,4,6-triiodo-5-acetamido-isophthalic acid dichloride
To 2,4,6-triiodo-5-amino-isophthalic acid dichloride (150 g; 0.252 mole) in DMAC (300 ml) is added acetyl chloride (80 ml; 4 times the theoretical amount). The mixture is stirred overnight in an ice-water bath. It is then poured over water (1.5 liter). The resulting material is then filtered and washed twice with water, after which it is dried in an oven at 45° C, to give 159 g of product (i.e., in a yield of 99%).

reactant | 2,4,6-triiodo-5-amino-isophthalic acid dichloride | 0.252 mole, 150 g | IC1=C(C(=O)Cl)C(=C(C(=C1C(=O)Cl)I)N)I | C8H2Cl2I3NO2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | water | 1.5 liter | O | H2O
solvent | DMAC | 300 ml | CC(=O)N(C)C | C4H9NO
product | 2,4,6-triiodo-5-acetamido-isophthalic acid dichloride | 159 g, yield of 99% | IC1=C(C(=O)Cl)C(=C(C(=C1C(=O)Cl)I)NC(C)=O)I | C10H4Cl2I3NO3
